US07319099B2
(c) 2-Dimethylcarbamoyloxy-5-methanesulfonyl-benzoic acid
1 mmol of 2-dimethylcarbamoyloxy-5-methanesulfonyl-benzoic acid benzyl ester was dissolved in 5 ml of methanol. 25 mg of palladium 10% on charcoal was added and the reaction mixture hydrogenated at room temperature to yield the title compound as a slightly yellowish solid. MS (m/e): 288.0 (MH+, 66%)

reactant | 2-dimethylcarbamoyloxy-5-methanesulfonyl-benzoic acid benzyl ester | 1 mmol | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)S(=O)(=O)C)OC(N(C)C)=O)=O | C18H19NO6S
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium | 25 mg | [Pd] | Pd
product | 2-Dimethylcarbamoyloxy-5-methanesulfonyl-benzoic acid | CN(C(=O)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C)C | C11H13NO6S
